US06492364B1
Isatoic anhydride (1.02 g) and 1-diphenylmethyl-4-(3-aminopropyl)piperazine (2.12 g) were dissolved in 1,4-dioxane (20 ml) and the mixture was stirred at room temperature for 4 hours. 1,4-dioxane was removed and the residue was purified by silica gel column chromatography (ethyl acetate), followed by recrystallization of the resultant from ethyl acetate-hexane to obtain 2.47 g of N-(3-(4-(diphenylmethyl)piperazinyl)propyl)(2-aminophenyl)formamide. Yield: 92%.

reactant | Isatoic anhydride | 1.02 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1-diphenylmethyl-4-(3-aminopropyl)piperazine | 2.12 g | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN)C1=CC=CC=C1 | C20H27N3
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
product | N-(3-(4-(diphenylmethyl)piperazinyl)propyl)(2-aminophenyl)formamide | 2.47 g, Yield: 92% | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN(C=O)C1=C(C=CC=C1)N)C1=CC=CC=C1 | C27H32N4O
